US04044021
1-(p-Chlorophenyl)-2-imino-3-methyl-4-oxoimidazolidine hydrochloride
3.0 g. of 1-(p-chlorophenyl)-2-imino-3-methyl-4-oxo-imidazolidine was dissolved in 25 ml. of ethanolic HCl. This solution was filtered and added to an excess of ether upon which the hydrochloride precipitated. This was filtered, dried, and recrystallized from ethanol to give 0.8 g. product, m.p. 276°-8° C. the ethanol filtrate was concentrated to give an additional 1.1 g. of material. The total yield of product was 1.9 g. (55%).

reactant | 1-(p-chlorophenyl)-2-imino-3-methyl-4-oxo-imidazolidine | ClC1=CC=C(C=C1)N1C(N(C(C1)=O)C)=N | C10H10ClN3O
reactant | HCl | Cl | ClH
product | 1-(p-Chlorophenyl)-2-imino-3-methyl-4-oxoimidazolidine hydrochloride | Cl.ClC1=CC=C(C=C1)N1C(N(C(C1)=O)C)=N | InChI=1S/C10H10ClN3O.ClH/c1-13-9(15)6-14(10(13)12)8-4-2-7(11)3-5-8;/h2-5,12H,6H2,1H3;1H
